US07674804B2
Step 2: 1-(3,5-Diisopropoxy-benzyl)-piperidin-4-ylamine (Intermediate A3)
A solution of [1-(3,5-diisopropoxy-benzyl)-piperidin-4-yl]-carbamic acid tert-butyl ester (3.23 g, 7.95 mmol) in 4 M HCl (100 mL) was stirred at rt for 2 h. The hydrochloric acid was removed under reduced pressure and the crude reaction product extracted from a solution of 1 M NaOH (100 mL) with ethyl acetate (3×100 mL). The combined organic phases were dried over MgSO4 and concentrated by evaporation under reduced pressure yielding 0.78 g (32%) of a colorless oil.

reactant | [1-(3,5-diisopropoxy-benzyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 7.95 mmol, 3.23 g | C(C)(C)(C)OC(NC1CCN(CC1)CC1=CC(=CC(=C1)OC(C)C)OC(C)C)=O | C23H38N2O4
solvent | HCl | 4 M, 100 mL | Cl | ClH
product | 1-(3,5-Diisopropoxy-benzyl)-piperidin-4-ylamine | 0.78 g, 32% | C(C)(C)OC=1C=C(CN2CCC(CC2)N)C=C(C1)OC(C)C | C18H30N2O2
